US06200970B1
A solution of 21.16 g (105.4 mmol) of 1-(3-chloro-4-methoxyphenyl)-2-hydroxypropane in 106 ml of dry benzene is mixed with 15.93 g (105.4 mmol) of 4-nitrobenzaldehyde and 14.36 g (105.4 mmol) of freshly melted zinc chloride, and dry hydrogen chloride gas is introduced for 3 hours. Then, the mixture is heated to boiling for 30 minutes. Working-up is carried out according to the process that is described in Example 3, Step A. The 6-chloro-3-methyl-7-methoxy-1-(4-nitrophenyl)-isochroman that is obtained is first isolated as an oily crude product, which crystallizes during treatment, however, with 370 ml of hot ethanol: 15.79 g (50%, melting point 118-120° C.

reactant | 1-(3-chloro-4-methoxyphenyl)-2-hydroxypropane | 105.4 mmol, 21.16 g | ClC=1C=C(C=CC1OC)CC(C)O | C10H13ClO2
reactant | 4-nitrobenzaldehyde | 105.4 mmol, 15.93 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 106 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 6-chloro-3-methyl-7-methoxy-1-(4-nitrophenyl)-isochroman | ClC=1C=C2CC(OC(C2=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H16ClNO4
